US08865712B2
i) [5-(6-Bromo-pyridin-2-yl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester
A suspension of 5-(6-bromo-pyridin-2-yl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine (1.100 g, 4.07 mmol), Boc2O (1.229 ml, 1.155 g, 5.29 mmol) and DIPEA (1.067 ml, 0.789 g, 6.11 mmol) in DCM (30 ml) was stirred at rt for 20 h. The reaction mixture was diluted with H2O and DCM. The phases were separated and the aq. phase was twice reextracted with DCM. The combined org. phases were washed with brine, dried over Na2SO4, filtered and concentrated to yield the title compound as a colourless solid that was used in the next step without further purification. HPLC RtH4=0.92 min; ESIMS: 370, 372 [(M+H)+].

reactant | 5-(6-bromo-pyridin-2-yl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine | 4.07 mmol, 1.100 g | BrC1=CC=CC(=N1)C1(N=C(COC1)N)C | C10H12BrN3O
reactant | Boc2O | 5.29 mmol, 1.229 ml, 1.155 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | DIPEA | 6.11 mmol, 1.067 ml, 0.789 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | [5-(6-Bromo-pyridin-2-yl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1COCC(N1)(C)C1=NC(=CC=C1)Br)=O | C15H20BrN3O3
